US07456164B2
Intermediate 24: 4-Pyrrolidin-1-yl-butan-2-ol
Pyrrolidine (2 ml, 24 mmol), THF (20 ml) and methyl vinylketone (2.5 ml, 31 mmol) were mixed together and stirred overnight. NaBH4 (1.17 g, 31 mmol) was added to the reaction mixture and stirred for 3 hours. The reaction was quenched with water (20 ml) and extracted with TBME (2×20 ml). The combined organic extracts were dried over MgSO4, filtered, washed with TBME and concentrated in vacuo. The crude product was purified by column chromatography, eluting with DCM:MeOH:NH3 (94:5:1), to give the title compound as a pale yellow oil (1.3 g, 38%).

reactant | Pyrrolidine | 24 mmol, 2 ml | N1CCCC1 | C4H9N
reactant | methyl vinylketone | 31 mmol, 2.5 ml | CC(=O)C=C | C4H6O
reactant | NaBH4 | 31 mmol, 1.17 g | [BH4-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-Pyrrolidin-1-yl-butan-2-ol | 1.3 g, 38% | N1(CCCC1)CCC(C)O | C8H17NO
